US05091432
Synthesis of 4-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]benzoic acid, 1-(dimethylamino)-2-propyl ester (AIT-0084)
2.0 g (5.78 mmol) of 4-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]benzoic acid (AIT-0082) were placed into a 100 ml round bottom flask equipped with a magnetic stirring bar, reflux condenser and a drying tube. 16 ml of thionyl/chloride were added and the mixture was slowly heated to 55°-60° C. for six hours. The reaction mixture was allowed to cool to room temperature. 50 ml of benzene were added to break up the crystal mass. The solid was collected by filtration, washed twice with 10 ml of benzene and was allowed to dry under the hood for two hours. While the product was being dried, 20 ml of dimethylamino-2-propanol were placed in a 100 ml round bottom flask equipped with a magnetic stirring bar and drying tube. The mass was slowly added under stirring conditions. The drying tube was replaced on the flask and the stirring continued for six hours at room temperature. The reaction mixture was poured into a 500 ml Erlenmeyer flask containing 300 ml of acetonitrile. The solution was stirred for five minutes. The flask was covered with parafilm and was allowed to stand in the hood overnight at room temperature. The solid material was removed by filtration, washed twice with 15 ml of acetonitrile and air dried under the hood for three hours. The weight of the product 4-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]benzoic acid, 1-(dimethylamino)-2-propyl ester (AIT-0084) was 830 mg. Yield: 33%

reactant | 4-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]benzoic acid | 5.78 mmol, 2.0 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)NC1=CC=C(C(=O)O)C=C1 | C15H13N5O4
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 4-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]benzoic acid, 1-(dimethylamino)-2-propyl ester | Yield: 33% | O=C1C=2N=CN(C2N=CN1)CCC(=O)NC1=CC=C(C(=O)OC(CN(C)C)C)C=C1 | C20H24N6O4
